US04152441
Using the procedure described in Example IB but substituting an equivalent amount of α,α-bis(p-bromophenyl)-1-(toluene-p-sulphonyl)imidazole-2-methanol for the α-(p-bromophenyl)-α-phenyl-1-(toluene-p-sulphonyl)imidazole-2-methanol, α,α-bis(p-bromophenyl)imidazole-2-methanol was obtained. Its melting point was 192°-194° C. after crystallisation from isopropyl alcohol.

reactant | α,α-bis(p-bromophenyl)-1-(toluene-p-sulphonyl)imidazole-2-methanol | BrC1=CC=C(C=C1)C(O)(C=1N(C=CN1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=C(C=C1)Br | C23H18Br2N2O3S
reactant | α-(p-bromophenyl)-α-phenyl-1-(toluene-p-sulphonyl)imidazole-2-methanol | BrC1=CC=C(C=C1)C(O)(C=1N(C=CN1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C23H19BrN2O3S
product | α,α-bis(p-bromophenyl)imidazole-2-methanol | BrC1=CC=C(C=C1)C(O)(C=1NC=CN1)C1=CC=C(C=C1)Br | C16H12Br2N2O
